US06774086B2
0.400 g (1.10 mmol) of 2,4-dibromo-3-(aminocarbonylmethoxy)benzoic acid, 0.140 g (1.20 mmol) of cyclohexane-1,3-dione, 0.222 g (1.10 mmol) of N′-(3-dimethyl-aminopropyl) -N-ethylcarbodiimide hydrochloride and 0.001 g of DMAP was stirred for 14 hours at RT in 15 ml of CH2Cl2. The mixture was subsequently diluted with CH2Cl2 and with 0.5 N HCl, and washed with water, with saturated NaHCO3 solution and again with water. After the combined organic phases have been dried over Na2SO4 and concentrated completely, 3-oxo-1-cyclohexenyl 2,4-dibromo-3-(aminocarbonylmethoxy)benzoate was obtained as a yellow resin, which had sufficient purity for the subsequent reaction.

reactant | 2,4-dibromo-3-(aminocarbonylmethoxy)benzoic acid | 1.10 mmol, 0.400 g | BrC1=C(C(=O)O)C=CC(=C1OCC(=O)N)Br | C9H7Br2NO4
reactant | cyclohexane-1,3-dione | 1.20 mmol, 0.140 g | C1(CC(CCC1)=O)=O | C6H8O2
catalyst | DMAP | 0.001 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
solvent | HCl | 0.5 N | Cl | ClH
product | 3-oxo-1-cyclohexenyl 2,4-dibromo-3-(aminocarbonylmethoxy)benzoate | BrC1=C(C(=O)OC2=CC(CCC2)=O)C=CC(=C1OCC(=O)N)Br | C15H13Br2NO5
